US08871766B2
C) 2-(pyrimidin-4-yl)nicotinic acid dihydrochloride
A mixture of methyl 2-(pyrimidin-4-yl)nicotinate (0.19 g), acetic acid (1.0 mL) and 6 N hydrochloric acid (5 mL) was heated under reflux for 5 hr. The solvent was evaporated under reduced pressure to give the title compound (0.26 g).

reactant | methyl 2-(pyrimidin-4-yl)nicotinate | 0.19 g | N1=CN=C(C=C1)C1=C(C(=O)OC)C=CC=N1 | C11H9N3O2
reactant | hydrochloric acid | 6 N, 5 mL | Cl | ClH
solvent | acetic acid | 1.0 mL | C(C)(=O)O | C2H4O2
product | 2-(pyrimidin-4-yl)nicotinic acid dihydrochloride | 0.26 g | Cl.Cl.N1=CN=C(C=C1)C1=C(C(=O)O)C=CC=N1 | InChI=1S/C10H7N3O2.2ClH/c14-10(15)7-2-1-4-12-9(7)8-3-5-11-6-13-8;;/h1-6H,(H,14,15);2*1H
